US06013653
Under nitrogen stream, sodium iodide (97.8 g) and a mixture of 1-tosyl-4-chloromethyl-5-methyl-imidazole and 3-tosyl-4-chloromethyl-5-methyl-imidazole (186 g) in tetrahydrofuran (1,000 ml) were agitated vigorously at an interior temperature of 18~23° C. for 2 hours, and after carrying out halogen exchange, the reaction solution was cooled to an interior temperature of -40~-50° C. In a separate reaction vessel, under nitrogen stream, 8,9-dihydro-10-methyl-pyrido[1,2-a]indol-6(7H)-on (100 g) was dissolved in tetrahydrofuran (900 ml), cooled to -40~-50° C. and a 1.35 N solution of lithium hexamethyldisilazit/tetrahydrofuran-n-hexane (409 ml) were dripped therein while maintaining at same temperature. After dripping was completed, the reaction was carried out under the agitate at same temperature for an additional 30 minutes and thereafter the solution was dripped into the halogen exchange reaction solution prepared above while maintaining a temperature of -40~-50° C. The reaction was carried out at the same temperature for 15 minutes, and acetic acid (12.1 g) was added thereto. An interior temperature was raised to 5~10° C., then 5% aqueous sodium thiosulfate (1,000 ml) was added thereto, and the upper layer was collected. It was concentrated under vacuum until the volume is approximately 800 ml. After the concentrating is completed, the mixture of methanol (400 ml), water (200 ml), and concentrated hydrochloric acid (100 ml) was added thereto, and were agitated for 3 hours after the interior temperature was raised to 48~53° C. After the reaction is completed, the solution was adjusted to pH 7.8-8.2 with 12% aqueous sodium hydroxide solution, and was concentrated under vacuum until volume is approximately 800 ml. Ethyl acetate (300 ml) was added thereto, adjusted to pH 10.5±0.2 with 12% aqueous sodium hydroxide, thereafter was cooled to a temperature of not higher than 10° C., and the precipitated crystals were collected by filtration. They were washed with ethyl acetate (300 ml) and water (500 ml), and then dried overnight under vacuum to obtain (±)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one as yellowish-brown crystals (129.0 g).

reactant | sodium iodide | 97.8 g | [I-].[Na+]
reactant | 1-tosyl-4-chloromethyl-5-methyl-imidazole | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=NC(=C1C)CCl | C12H13ClN2O2S
reactant | 3-tosyl-4-chloromethyl-5-methyl-imidazole | 186 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=NC(=C1CCl)C | C12H13ClN2O2S
reactant | 8,9-dihydro-10-methyl-pyrido[1,2-a]indol-6(7H)-on | 100 g | CC1=C2N(C3=CC=CC=C13)C(CCC2)=O | C13H13NO
reactant | lithium | [Li] | Li
reactant | sodium thiosulfate | 1,000 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 1,000 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 12.1 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran n-hexane | 409 ml | O1CCCC1.CCCCCC
product | (±)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 129.0 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C18H19N3O
